US09169261B2
To a solution of (S)-tert-butyl pyrrolidin-3-ylcarbamate (0.50 g, 2.7 mmol, 1 eq) and diisopropylamine (0.66 mL, 3.8 mmol, 1.4 eq) in 0.2 mL of NMP was added 4-chloropyrazolo[1,5-a]pyrazine (0.47 mL, 3.1 mmol, 1.1 eq). After stirring for 1 h at room temperature, the mixture was concentrated and purified by silica gel column chromatography (100% EtOAc) to afford (S)-tert-butyl (1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)carbamate (0.740 g, 2.4 mmol, 91%).

reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 2.7 mmol, 0.50 g, 1 eq | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | diisopropylamine | 3.8 mmol, 0.66 mL, 1.4 eq | C(C)(C)NC(C)C | C6H15N
reactant | 4-chloropyrazolo[1,5-a]pyrazine | 3.1 mmol, 0.47 mL, 1.1 eq | ClC=1C=2N(C=CN1)N=CC2 | C6H4ClN3
solvent | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl (1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)carbamate | 2.4 mmol, 0.740 g, 91% | N1=CC=C2N1C=CN=C2N2C[C@H](CC2)NC(OC(C)(C)C)=O | C15H21N5O2
